US08067445B2
Step 1: [2′-(3-Benzyl-3-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 131, Step 2, using the following starting materials: (2′-aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester, N-ethyl-N-benzylcarbamoyl chloride.

reactant | (2′-aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN)=O | C18H18F3NO3
reactant | N-ethyl-N-benzylcarbamoyl chloride | C(C)N(C(=O)Cl)CC1=CC=CC=C1 | C10H12ClNO
product | [2′-(3-Benzyl-3-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNC(=O)N(CC)CC1=CC=CC=C1)=O | C28H29F3N2O4
